US06147115
Preparation N-(4-bromophenyl)-N'-cyclopentanesulfonylurea
The general method of procedure A was followed with cyclopentanesulfonamide (3 g), acetone (100 ml), 1N sodium hydroxide (21 ml), and 4-bromophenyl isocyanate (3.7 g) dissolved in acetone (50 ml). After two hours, 1N HCl (21 ml) was added. The resulting precipitate was collected, washed with water and dried at 60° C. under vacuum to provide 5.4 g of product.

reactant | cyclopentanesulfonamide | 3 g | C1(CCCC1)S(=O)(=O)N | C5H11NO2S
reactant | sodium hydroxide | 1N, 21 ml | [OH-].[Na+]
reactant | 4-bromophenyl isocyanate | 3.7 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
reactant | HCl | 1N, 21 ml | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(4-bromophenyl)-N'-cyclopentanesulfonylurea | 5.4 g | BrC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1CCCC1 | C12H15BrN2O3S
